US05556854
6.5 g of 3-benzy1-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]-pyrimidine-2,4-dione hydrochloride were added at 0° C. to a mixture of 5.5 ml of 90% formic acid and 4 ml of 37% formaldehyde, with stirring. After heating for 8 h at the reflux temperature, 26.5 ml of i N hydrochloric acid were added at room temperature and the mixture was then concentrated under reduced pressure. After recrystallization from isopropanol/water, 3-benzyl-6-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione hydrochloride was obtained from the residue.

reactant | 3-benzy1-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]-pyrimidine-2,4-dione hydrochloride | 6.5 g | Cl.C(C1=CC=CC=C1)N1C(NC2=C(C1=O)CNCC2)=O
reactant | formaldehyde | 4 ml | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | formic acid | 5.5 ml | C(=O)O | CH2O2
product | 3-benzyl-6-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(NC2=C(C1=O)CN(CC2)C)=O | InChI=1S/C15H17N3O2.ClH/c1-17-8-7-13-12(10-17)14(19)18(15(20)16-13)9-11-5-3-2-4-6-11;/h2-6H,7-10H2,1H3,(H,16,20);1H
